US04377702
To a mixture of 20 mg of (5,6-dihydro benzo[b]pyrido-[3,2-f]oxepin-8-yl)-acetic acid and 0.5 ml of ethanol was added 2.5 ml of a saturated hydrogen chloride gas-ethanol solution, and the resulting mixture was stirred at room temperature for 1.5 hours. After the completion of the reaction, this was basified with a saturated sodium hydrogen carbonate solution and extracted with chloroform. The extract was washed with a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain an oil, which was chromatographed over 1 g of silica gel and eluted with benzene/chloroform (9/1-8/1), thereby yielding 18 mg (yield: 81.8%) of ethyl(5,6-dihydro benzo[b]pyrido[3,2-f]-oxepin-8-yl)-acetate as a colorless oil.

reactant | (5,6-dihydro benzo[b]pyrido-[3,2-f]oxepin-8-yl)-acetic acid | 20 mg | N1=CC=CC=2CCC3=C(OC21)C=CC(=C3)CC(=O)O | C15H13NO3
reactant | hydrogen chloride | 2.5 ml | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 0.5 ml | C(C)O | C2H6O
product | ethyl(5,6-dihydro benzo[b]pyrido[3,2-f]-oxepin-8-yl)-acetate | 18 mg, yield: 81.8% | C(C)OC(CC1=CC2=C(OC3=C(CC2)C=CC=N3)C=C1)=O | C17H17NO3
